US07700634B2
A solution of 1-benzenesulfonyl-3-bromo-7-fluoroindole (0.5 g, 1.41 mmol), 5-formyl-2-thiophene boronic acid (0.24 g, 1.55 mmol), bis(triphenylphosphine) palladium (II) dichloride (0.06 g, 0.08 mmol) and triethylamine (0.39 ml, 2.82 mmol) in ethanol (4 ml) was subjected to microwave irradiation at 150° C. for 420 s. The resulting suspension was concentrated under reduced pressure and the residue passed through a silica pad eluting with dichloromethane to afford crude 5-(1-benzenesulfonyl-7-fluoroindol-3-yl)-thiophene-2-carboxaldehyde as a brown solid (0.42 g) which was used in the next step with no further purification.

reactant | 1-benzenesulfonyl-3-bromo-7-fluoroindole | 1.41 mmol, 0.5 g | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC=CC(=C12)F)Br | C14H9BrFNO2S
reactant | 5-formyl-2-thiophene boronic acid | 1.55 mmol, 0.24 g | C(=O)C1=CC=C(S1)B(O)O | C5H5BO3S
reactant | triethylamine | 2.82 mmol, 0.39 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 4 ml | C(C)O | C2H6O
catalyst | bis(triphenylphosphine) palladium (II) dichloride | 0.08 mmol, 0.06 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-(1-benzenesulfonyl-7-fluoroindol-3-yl)-thiophene-2-carboxaldehyde | 0.42 g | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC=CC(=C12)F)C1=CC=C(S1)C=O | C19H12FNO3S2
